US07820654B2
Step (iii). Synthesis of (3-chloro-4-methoxy-phenyl)-(4-phenyl-6-piperazin-1-yl-pyrimidin-2-yl)-amine
(3-Chloro-4-methoxy-phenyl)-(4-chloro-6-phenyl-pyrimidin-2-yl)-amine compound (1 g, 2.8 mmol) on treatment with piperazine (0.24 g, 2.8 mmol), as described above yielded the desired compound.

reactant | (3-Chloro-4-methoxy-phenyl)-(4-chloro-6-phenyl-pyrimidin-2-yl)-amine | 2.8 mmol, 1 g | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)Cl)C1=CC=CC=C1 | C17H13Cl2N3O
reactant | piperazine | 2.8 mmol, 0.24 g | N1CCNCC1 | C4H10N2
product | (3-chloro-4-methoxy-phenyl)-(4-phenyl-6-piperazin-1-yl-pyrimidin-2-yl)-amine | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)C1=CC=CC=C1)N1CCNCC1 | C21H22ClN5O
